US08735387B2
(b) N-(4,6-Dihydroxy-2-mercapto-pyrimidin-5-yl)-3-methyl-benzamide
1.5 equivalents of sodium methoxide (30% in methanol) were added to 7.79 g of thiourea in 150 ml of absolute ethanol. A solution of 30 g of 2-(3-methyl-benzoylamino)malonic acid diethyl ester in 100 ml of absolute ethanol was added dropwise, and the reaction mixture was stirred at 60° C. for 2 h. Then the mixture was cooled to 0° C. for 30 min, and the precipitate was filtered off with suction, washed and dried. 28.6 g of the crude title compound were obtained.

reactant | sodium methoxide | 1.5 equivalents | C[O-].[Na+]
reactant | thiourea | 7.79 g | NC(=S)N | CH4N2S
reactant | 2-(3-methyl-benzoylamino)malonic acid diethyl ester | 30 g | C(C)OC(C(C(=O)OCC)NC(C1=CC(=CC=C1)C)=O)=O | C15H19NO5
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | N-(4,6-Dihydroxy-2-mercapto-pyrimidin-5-yl)-3-methyl-benzamide | 28.6 g | OC1=NC(=NC(=C1NC(C1=CC(=CC=C1)C)=O)O)S | C12H11N3O3S
